US07741479B2
Preparation of tert-butyl-(1-aminonaphthalen-4-yl)methylcarbamate
To a vial containing 4-(aminomethyl)naphthalen-1-amine (0.41 mmol) in methanol (2 mL) was added (Boc)2O (0.41 mmol) and DIEA (0.46 mmol). The vial was loosely capped and the resulting solution stirred at room temperature for 28 hours. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate. The combined aqueous layers were extracted once with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered and solvent removed under vacuum. Purification by preparative super critical fluid chromatography gave the desired product (59.6 mg, 53%).

reactant | 4-(aminomethyl)naphthalen-1-amine | 0.41 mmol | NCC1=CC=C(C2=CC=CC=C12)N | C11H12N2
reactant | (Boc)2O | 0.41 mmol | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIEA | 0.46 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl-(1-aminonaphthalen-4-yl)methylcarbamate | 59.6 mg, 53% | C(C)(C)(C)OC(NCC1=CC=C(C2=CC=CC=C12)N)=O | C16H20N2O2
